### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Functor): refactoring Lan

### PR DESCRIPTION
**Pull request by joelriou**
This PR refactors the definition of the left Kan extension functor (`Functor.lan : (C ⥤ E) ⥤ (D ⥤ E)`) which sends a functor to its left Kan extension along a given functor `F : C ⥤ D`. This definition used to be a construction based on the existence of suitable colimits. The new definition relies on the new general API for left Kan extensions. Then, `F.lan.obj G` is now defined as `leftKanExtension F G`. As a result, `(leftKanExtension F G).obj X` is no longer defined as colimit, but when it is known that `G` has a pointwise left Kan extension, it is shown that `leftKanExtension F G` is indeed a pointwise left Kan extension, which means that `(leftKanExtension F G).obj X` is the point of a certain colimit cocone. Then, in the downstream applications of this construction we have to use the API for colimit cocones rather that the colimit API.

The file `CategoryTheory.Limits.Presheaf` is also significantly refactored: instead of reconstructing functors by using colimits, we make use of the left Kan extension API.

As the pullback of presheaves is a left Kan extension, the file `Topology.Sheaves.Presheaf` is also refactored: the pushforward and pullback functors are redefined in a more direct manner.

---

In the WIP PR #14291, the dual construction `Ran` is refactored.

- [x] depends on: #10413

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by joelriou** [comment]
!bench

**Comment by dagurtomas** [comment]
I've been meaning to review this but haven't had the time. I'll get around to it soon

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 1]
```diff
@@ -17,9 +17,10 @@ with `L` (see `Functor.lanAdjunction`).
 ## TODO
 - dualize the results for right Kan extensions
 - refactor the file `CategoryTheory.Limits.KanExtension` so that
-the definitions of `Lan` and `Ran` in that file (which rely on the
-existence of (co)limits) are replaced by the new definition
-`Functor.lan` which is based on Kan extensions API.
+the definitions of `Ran` in that file (which rely on the
+existence of limits) are replaced by a definition
+`Functor.ran` based on the Kan extension API, similarly as
+left Kan extensions have been refactored in #10425.
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:23]:
```suggestion
the definition of `Ran` in that file (which relies on the
existence of limits) is replaced by a definition
`Functor.ran` based on the Kan extension API, similarly as
left Kan extensions have been refactored in #10425.
```

File: Mathlib/CategoryTheory/Limits/KanExtension.lean [hunk 2]
```diff
@@ -11,23 +11,28 @@ import Mathlib.CategoryTheory.PUnit
...
-They exist under the assumption that the target category has enough limits
-resp. colimits.
+This file defines the right Kan extensions of a functor.
+They exist under the assumption that the target category has enough limits.
 
-The main definitions are `Ran ι` and `Lan ι`, where `ι : S ⥤ L` is a functor.
-Namely, `Ran ι` is the right Kan extension, while `Lan ι` is the left Kan extension,
-both as functors `(S ⥤ D) ⥤ (L ⥤ D)`.
+The main definitions is `Ran ι`, where `ι : S ⥤ L` is a functor.
+Namely, `Ran ι : (S ⥤ D) ⥤ (L ⥤ D)` is the right Kan extension.
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/KanExtension.lean:20]:
```suggestion
The main definition is `Ran ι`, where `ι : S ⥤ L` is a functor.
Namely, `Ran ι : (S ⥤ D) ⥤ (L ⥤ D)` is the right Kan extension.
```

File: Mathlib/CategoryTheory/Limits/Presheaf.lean [hunk 3]
```diff
@@ -65,372 +71,457 @@ In the case where `ℰ = Cᵒᵖ ⥤ Type u` and `A = yoneda`, this functor is i
...
+      (P ⟶ (restrictedYoneda A).obj E) where
+  toFun f :=
+    { app := fun X x => f.app (CostructuredArrow.mk (yonedaEquiv.symm x))
+      naturality := fun {X₁ X₂} φ => by
+        ext x
+        dsimp
+        let ψ : CostructuredArrow.mk (yonedaEquiv.symm (P.toPrefunctor.map φ x)) ⟶
+          CostructuredArrow.mk (yonedaEquiv.symm x) := CostructuredArrow.homMk φ.unop (by
+            dsimp [yonedaEquiv]
+            aesop_cat )
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Presheaf.lean:91]:
```suggestion
        let ψ : CostructuredArrow.mk (yonedaEquiv.symm (P.toPrefunctor.map φ x)) ⟶
          CostructuredArrow.mk (yonedaEquiv.symm x) := CostructuredArrow.homMk φ.unop (by
            dsimp [yonedaEquiv]
            aesop_cat )
```

File: Mathlib/CategoryTheory/Limits/Presheaf.lean [hunk 4]
```diff
@@ -65,372 +71,457 @@ In the case where `ℰ = Cᵒᵖ ⥤ Type u` and `A = yoneda`, this functor is i
...
-        { val := fun p => τ.app p.unop.1 p.unop.2
-          property := @fun p p' f => by
-            simp_rw [← f.unop.2]
-            apply (congr_fun (τ.naturality f.unop.1) p'.unop.2).symm }
-      left_inv := by
-        rintro ⟨k₁, k₂⟩
-        ext
+        simp only [comp_id, id_comp]
+        refine' (congr_fun (g.naturality φ.left.op) (X₂.hom.app (Opposite.op X₂.left)
+          (𝟙 _))).symm.trans _
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Presheaf.lean:101]:
```suggestion
        refine (congr_fun (g.naturality φ.left.op) (X₂.hom.app (Opposite.op X₂.left)
          (𝟙 _))).symm.trans ?_
```

File: Mathlib/CategoryTheory/Limits/Presheaf.lean [hunk 5]
```diff
@@ -65,372 +71,457 @@ In the case where `ℰ = Cᵒᵖ ⥤ Type u` and `A = yoneda`, this functor is i
...
+        congr 3
+        apply yonedaEquiv.injective
+        simp [yonedaEquiv]
+      homEquiv_naturality_right := fun {P X Y} f g => by
+        apply (restrictedYonedaHomEquiv L α P Y).symm.injective
+        simp only [Equiv.symm_apply_apply]
+        dsimp [restrictedYonedaHomEquiv, restrictedYonedaHomEquiv', IsColimit.homEquiv]
+        apply (Functor.isPointwiseLeftKanExtensionOfIsLeftKanExtension L α P).hom_ext
+        rintro p
+        rw [IsColimit.fac]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Presheaf.lean:159]:
```suggestion
        intro p
        rw [IsColimit.fac]
```

File: Mathlib/CategoryTheory/Limits/Presheaf.lean [hunk 6]
```diff
@@ -65,372 +71,457 @@ In the case where `ℰ = Cᵒᵖ ⥤ Type u` and `A = yoneda`, this functor is i
...
+    IsColimit (coconeOfRepresentable P) where
+  desc s :=
+    { app := fun X x => (s.ι.app (Opposite.op (Functor.elementsMk P X x))).app X (𝟙 _)
+      naturality := fun X Y f => by
+        ext (x : P.obj X)
+        have eq₁ := congr_fun (congr_app (s.w (CategoryOfElements.homMk (P.elementsMk X x)
+          (P.elementsMk Y (P.map f x)) f rfl).op) Y) (𝟙 _)
+        dsimp at eq₁ ⊢
+        rw [← eq₁, id_comp]
+        simpa using congr_fun ((s.ι.app (Opposite.op (P.elementsMk X x))).naturality f) (𝟙 _) }
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Presheaf.lean:247]:
```suggestion
        ext x
        have eq₁ := congr_fun (congr_app (s.w (CategoryOfElements.homMk (P.elementsMk X x)
          (P.elementsMk Y (P.map f x)) f rfl).op) Y) (𝟙 _)
        dsimp at eq₁ ⊢
        simpa [← eq₁, id_comp] using 
          congr_fun ((s.ι.app (Opposite.op (P.elementsMk X x))).naturality f) (𝟙 _) }
```

File: Mathlib/CategoryTheory/Limits/Presheaf.lean [hunk 7]
```diff
@@ -65,372 +71,457 @@ In the case where `ℰ = Cᵒᵖ ⥤ Type u` and `A = yoneda`, this functor is i
...
+    let φ : j.unop ⟶ Functor.elementsMk P X ((yonedaEquiv.symm j.unop.2).app X x) := ⟨x.op, rfl⟩
+    simpa using congr_fun (congr_app (s.ι.naturality φ.op).symm X) (𝟙 _)
+  uniq s m hm := by
+    ext X x
+    dsimp
+    rw [← hm]
+    dsimp
+    apply congr_arg
+    simp [coconeOfRepresentable_ι_app, yonedaEquiv]
+#align category_theory.colimit_of_representable CategoryTheory.Presheaf.colimitOfRepresentable
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Presheaf.lean:260]:
```suggestion
    dsimp
    rw [← hm]
    apply congr_arg
    simp [coconeOfRepresentable_ι_app, yonedaEquiv]
#align category_theory.colimit_of_representable CategoryTheory.Presheaf.colimitOfRepresentable
```

File: Mathlib/CategoryTheory/Limits/Presheaf.lean [hunk 8]
```diff
@@ -65,372 +71,457 @@ In the case where `ℰ = Cᵒᵖ ⥤ Type u` and `A = yoneda`, this functor is i
...
-    rw [← L₂.map_comp, coconeOfRepresentable_naturality]
-    rfl
-#align category_theory.nat_iso_of_nat_iso_on_representables CategoryTheory.natIsoOfNatIsoOnRepresentables
-
-variable [HasColimits ℰ]
-
-/-- Show that `extendAlongYoneda` is the unique colimit-preserving functor which extends `A` to
-the presheaf category.
+    let φ : j.unop ⟶ Functor.elementsMk P X ((yonedaEquiv.symm j.unop.2).app X x) := ⟨x.op, rfl⟩
+    simpa using congr_fun (congr_app (s.ι.naturality φ.op).symm X) (𝟙 _)
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Presheaf.lean:252]:
```suggestion
    ext X x
    let φ : j.unop ⟶ Functor.elementsMk P X ((yonedaEquiv.symm j.unop.2).app X x) := ⟨x.op, rfl⟩
    simpa using congr_fun (congr_app (s.ι.naturality φ.op).symm X) (𝟙 _)
```

File: Mathlib/Topology/Sheaves/Presheaf.lean [hunk 9]
```diff
@@ -449,17 +286,8 @@ theorem toPushforwardOfIso_app {X Y : TopCat} (H₁ : X ≅ Y) {ℱ : X.Presheaf
...
-    Functor.id_obj, Functor.comp_obj, Adjunction.mkOfUnitCounit_unit, unop_op, eqToHom_map]
-  rw [NatTrans.comp_app, presheafEquivOfIso_inverse_map_app, Equivalence.Equivalence_mk'_unit]
-  congr 1
-  simp only [Equivalence.unit, Equivalence.op, CategoryTheory.Equivalence.symm, Opens.mapMapIso,
-    Functor.id_obj, Functor.comp_obj, Iso.symm_hom, NatIso.op_inv, Iso.symm_inv, NatTrans.op_app,
-    NatIso.ofComponents_hom_app, eqToIso.hom, eqToHom_op, Equivalence.Equivalence_mk'_unitInv,
-    Equivalence.Equivalence_mk'_counitInv, NatIso.op_hom, unop_op, op_unop, eqToIso.inv,
-    NatIso.ofComponents_inv_app, eqToHom_unop, ← ℱ.map_comp, eqToHom_trans, eqToHom_map,
-    presheafEquivOfIso_unitIso_hom_app_app]
+  simp [-Functor.map_comp, ← Functor.map_comp_assoc]
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/Presheaf.lean:289]: Does this not count as a non-terminal simp, because it's followed by `rfl`? Or should it be squeezed?

File: Mathlib/Topology/Sheaves/Presheaf.lean [hunk 10]
```diff
@@ -527,6 +346,30 @@ def pullbackInvIsoPushforwardHom {X Y : TopCat.{v}} (H : X ≅ Y) :
...
+    { lift := fun s ↦ by
+        fapply CostructuredArrow.homMk
+        · change op (unop _) ⟶ op (⟨_, H⟩ : Opens _)
+          refine (homOfLE ?_).op
+          apply (Set.image_subset f s.pt.hom.unop.le).trans
+          exact Set.image_preimage.l_u_le (SetLike.coe s.pt.left.unop)
+        · simp [autoParam, eq_iff_true_of_subsingleton]
+      -- Porting note: add `fac`, `uniq` manually
+      fac := fun _ _ => by ext; simp [eq_iff_true_of_subsingleton]
+      uniq := fun _ _ _ => by ext; simp [eq_iff_true_of_subsingleton] }
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/Presheaf.lean:366]:
```suggestion
        · simp [autoParam, eq_iff_true_of_subsingleton] }
```

**Review by dagurtomas — COMMENTED** [review]
I made some minor golfing suggestions and corrections to typos. Overall I think this is a good refactor, but I would like to avoid being too long in the situation where `lan` is refactored but we still have the old definition of `ran`. How far are you from completing the corresponding refactor of `ran`?

File: Mathlib/Topology/Sheaves/Presheaf.lean (hunk 9 above)
Comment (joelriou) [reply Mathlib/Topology/Sheaves/Presheaf.lean:289]: Yes, `simp` followed by `rfl` is considered ok.

**Comment by joelriou** [comment]
Thanks very much @dagurtomas for the review. It should be relatively easy to do the same refactor for `Ran`. Some notions for left Kan extension have to be adapted to right Kan extensions, but this should be straightforward. As `Ran` is not as much use as `Lan` (I think there is only the case of cocontinous functors between sites?), the refactor of `Ran` should be much easier as compared to this one.

**Review by dagurtomas — APPROVED** [review]

**Comment by erdOne** [comment]
!bench

**Comment by joelriou** [comment]
> ```diff
>   Benchmark                                       Metric         Change
>   =====================================================================
> - ~Mathlib.AlgebraicGeometry.Gluing               instructions    14.7%
> + ~Mathlib.CategoryTheory.Limits.KanExtension     instructions   -60.0%
> - ~Mathlib.CategoryTheory.Limits.Presheaf         instructions    47.2%
> - ~Mathlib.Geometry.RingedSpace.OpenImmersion     instructions    11.1%
> - ~Mathlib.Geometry.RingedSpace.PresheafedSpace   instructions    14.8%
> ```

The red parts seems mostly related to the change of definition of the pullback functor for presheaves on topological spaces.
The benchmark is not as bad on the dual refactor PR for `Ran` https://github.com/leanprover-community/mathlib4/pull/14291

**Comment by erdOne** [comment]
Thanks!
maintainer merge

File: Mathlib/Topology/Sheaves/Stalks.lean [hunk 11]
```diff
@@ -229,71 +223,112 @@ section stalkPullback
...
     { pt := F.stalk ((f : X → Y) (x : X))
       ι :=
         { app := fun V => F.germ ⟨((f : X → Y) (x : X)), V.hom.unop.le x.2⟩
           naturality := fun _ _ i => by erw [Category.comp_id]; exact F.germ_res i.left.unop _ } }
 set_option linter.uppercaseLean3 false in
 #align Top.presheaf.germ_to_pullback_stalk TopCat.Presheaf.germToPullbackStalk
 
+variable {C} in
+@[ext]
+lemma pullback_obj_obj_ext {Z : C} {f : X ⟶ Y} {F : Y.Presheaf C} (U : (Opens X)ᵒᵖ)
```
Comment (jcommelin) [inline Mathlib/Topology/Sheaves/Stalks.lean:253]: Why did this file become quite a bit longer? Is this hinting at a hole in the new Kan extension API?

File: Mathlib/CategoryTheory/Limits/KanExtension.lean [hunk 12]
```diff
@@ -11,23 +11,28 @@ import Mathlib.CategoryTheory.PUnit
 
 /-!
 
-# Kan extensions
+# Right Kan extensions
```
[the remark this answers is not in the document]
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/KanExtension.lean:14]: I would say no because the intend is to remove this file when the dual refactor #14291 is done.

File: Mathlib/Topology/Sheaves/Stalks.lean (hunk 11 above)
Comment (joelriou) [reply Mathlib/Topology/Sheaves/Stalks.lean:253]: I will try to investigate the issue closer.

**Comment by jcommelin** [comment]
Thanks for the clarifications!

bors merge
